data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1316,1445,[CH3:11][NH:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23])[C:24]([CH3:25])=[O:26].[N:1]#[C:2][C:3]1=[C:4]([F:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]12[C:4]([F:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:24]([CH3:25])=[O:26])[O:16][C:17]2([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23],water,298.15,13.259690559214109,-48.73695240345743
383,415,[CH3:10][CH-:11][NH+:12]=[C:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]([CH3:8])=[O:9]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:11]([CH3:10])[NH:12][C:13]1([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,10.020916043294488,-43.607521981078
1663,1835,[CH3:16][CH-:17][NH+:18]=[C:19]([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[C:19]([C:20]([CH3:21])=[O:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[NH:18][CH:17]3[CH3:16],water,298.15,13.82400728620664,-35.382076265212284
534,583,[CH3:1][C:2]#[C:3][C:4](=[O:5])[O:6][CH3:7].[CH3:8][O:9][C:10](=[O:11])[CH:12]=[N+:13]([CH3:14])[C-:15]([C:16]([CH3:17])=[O:18])[C:19]([CH3:20])=[O:21]>>[CH3:1][C:2]1=[C:3]([C:4](=[O:5])[O:6][CH3:7])[CH:12]([C:10]([O:9][CH3:8])=[O:11])[N:13]([CH3:14])[C:15]1([C:16]([CH3:17])=[O:18])[C:19]([CH3:20])=[O:21],water,298.15,23.42175211107841,-40.35453860143812
3512,4004,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([CH3:16])=[O+:17][O-:18]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[O:18][O:17][C:15]2([C:13]([O:12][CH3:11])=[O:14])[CH3:16],water,298.15,18.02028073423261,-21.746585942372388
4436,5068,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])=[N:15][C:16]1([C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23],water,298.15,10.11726130078928,-28.000636422945515
3542,4040,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[CH-:11][NH+:12]=[C:13]([CH3:14])[C:15](=[O:16])[NH:17][CH3:18]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:11]([C:9]([NH:8][CH3:7])=[O:10])[NH:12][C:13]1([CH3:14])[C:15](=[O:16])[NH:17][CH3:18],water,298.15,19.4984809840406,-16.809861514313276
4829,5511,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([C:17](=[O:18])[O:19][CH3:20])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:15]=[C:14]1[C:12]([NH:11][CH3:10])=[O:13],water,298.15,14.456758911543393,-30.699847369966555
4981,5668,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16]([CH3:17])=[O:18])=[N+:19]([CH3:20])[N-:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[N:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[N:19]([CH3:20])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:16]([CH3:17])=[O:18],water,298.15,30.978733298886542,2.161637727949828
3619,4138,[CH3:10][C:11](=[O:12])[C:13]#[N+:14][C-:15]([CH3:16])[C:17]([CH3:18])=[O:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:13]([C:11]([CH3:10])=[O:12])=[N:14][C:15]1([CH3:16])[C:17]([CH3:18])=[O:19],water,298.15,21.58335138930132,-26.359527695752423
522,569,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]#[N:8].[N:9]#[N+:10][C-:11]([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[C:11]([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[N:10]=[N:9]1,water,298.15,16.537762319579265,-33.523685043348486
778,841,[CH3:9][C:10](=[O:11])[C-:12]([CH3:13])[NH+:14]=[C:15]([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[Cl:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[C:12]([C:10]([CH3:9])=[O:11])([CH3:13])[NH:14][C:15]2([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,21.23847272881772,-31.46412442922293
